US08748340B2
2,4,6-trimethylphenol (272 mg, 2.00 mmol, 1.0 equiv) was dissolved in CH2Cl2 (3.33 mL, 0.3 M) under nitrogen (N2) and cooled to 0° C. Triphosgene (208 mg, 0.700 mmol, 0.35 equiv) was dissolved in CH2Cl2 (3.33 mL) and added dropwise, followed by pyridine (0.162 mL, 2.00 mmol, 1.0 equiv). The mixture was allowed to warm to 25° C. over 18 h, at which point the reaction was quenched with 10 mL 1 normal (N) hydrochloric acid (HCl; aq) and extracted with EtOAc. The organic layer was washed with 1 N HCl (aq), dried over Na2SO4, and concentrated to give mesityl chloroformate as an oil (88% purity by 1H NMR spectroscopy). The chloroformate so prepared was used directly in the next step without further purification.

reactant | 2,4,6-trimethylphenol | 2.00 mmol, 272 mg, 1.0 equiv | CC1=C(C(=CC(=C1)C)C)O | C9H12O
reactant | Triphosgene | 0.700 mmol, 208 mg, 0.35 equiv | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | pyridine | 2.00 mmol, 0.162 mL, 1.0 equiv | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 0.3 M, 3.33 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3.33 mL | C(Cl)Cl | CH2Cl2
product | mesityl chloroformate | ClC(=O)OC1=C(C=C(C=C1C)C)C | C10H11ClO2
